US05110945
1-Azoniabicyclo[3.3.0]oct-1(5)-ene chloride
A solution of dicyclopropylmethanimine hydrochloride (1.00 g, 6.87 mmol) in 6.0 ml of dimethyl sulfoxide was heated with stirring at 100° C. for 4 hours. The solvent was distilled out in vacuo and isobutyl alcohol (6 ml) was added to the residue. Precipitated crystals was obtained and dried in vacuo to afford 0.55 g (Yield: 55%) of the desired compound.

reactant | dicyclopropylmethanimine hydrochloride | 6.87 mmol, 1.00 g | Cl.C1(CC1)C(=N)C1CC1
solvent | dimethyl sulfoxide | 6.0 ml | CS(=O)C | C2H6OS
product | 1-Azoniabicyclo[3.3.0]oct-1(5)-ene chloride | 0.55 g, Yield: 55% | [Cl-].[N+]1=2CCCC2CCC1 | InChI=1S/C7H12N.ClH/c1-3-7-4-2-6-8(7)5-1;/h1-6H2;1H/q+1;/p-1
